US07030139B2
23D: 1-(Cyclopropylmethyl)-2-[(5-ethoxy-2-pyridinyl)methyl]-1H-benzimidazole-5-carbonitrile.
To a solution of 1-(cyclopropylmethyl)-2-[(5-hydroxy-2-pyridinyl)methyl]-1H-benzimidazole-5-carbonitrile (120 mg, 0.394 mmol) in DMSO (1 mL) was added MeONa (25% in MeOH, 0.47 mmol). After being stirred at room temperature for 30 min, MeOH was removed in vacuo and EtI (0.47 mmol) was added, and the resulting mixture was stirred at room temperature overnight. The solution was diluted with H2O (10 mL), extracted with EtOAc (2×20 mL), washed with H2O (2×10 mL), and lastly dried over MgSO4. The residue obtained after evaporation was purified by silica gel column chromatography to give the pure product as an oil (84 mg, 64%). 1H NMR (400 MHz, CDCl3): δ 8.19 (d, J=3.0 Hz, 1H), 8.04 (s, 1H), 7.49 (d, J=8.4 Hz, 1H), 7.42 (d, J=8.4 Hz, 1H), 7.24 (d, J=8.8 Hz, 1H), 7.13 (dd, J=10.0 Hz, J=2.8 Hz, 1H), 4.47 (s, 2H), 4.15 (d, J=6.8 Hz, 2H), 4.04 (q, J=7.0 Hz, 2H), 1.41 (t, J=7.0 Hz, 3H), 1.14–1.08 (m, 1H), 0.60–0.54 (m, 2H), 0.36–0.30 (m, 2H). MS (ES) (M+H)+=333.

reactant | 1-(cyclopropylmethyl)-2-[(5-hydroxy-2-pyridinyl)methyl]-1H-benzimidazole-5-carbonitrile | 0.394 mmol, 120 mg | C1(CC1)CN1C(=NC2=C1C=CC(=C2)C#N)CC2=NC=C(C=C2)O | C18H16N4O
reactant | MeONa | 0.47 mmol | CO[Na]
reactant | MeOH | CO | CH4O
reactant | EtI | 0.47 mmol | C(C)I | C2H5I
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | H2O | 10 mL | O | H2O
product | 1-(Cyclopropylmethyl)-2-[(5-ethoxy-2-pyridinyl)methyl]-1H-benzimidazole-5-carbonitrile | 84 mg, 64% | C1(CC1)CN1C(=NC2=C1C=CC(=C2)C#N)CC2=NC=C(C=C2)OCC | C20H20N4O
